US05387710
An aqueous solution (92 ml) of sodium borohydride (18.29 g) was added dropwise to a stirred solution of 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (25.01 g) at ambient temperature over 20 minutes. The resulting mixture was stirred for 4 hours and allowed to stand overnight at the same temperature and evaporated in vacuo. The residue was diluted with water and extracted twice with dichloromethane. The combined extracts were washed with brine, dried over sodium sulfate, treated with 4N hydrogen chloride in ethyl acetate, and evaporated in vacuo. The residue was suspended in methanol and filtered. The filtrate was evaporated in vacuo, diluted with ammonia aqueous solution, and extracted twice with dichloromethane. The combined extracts were washed with brine, dried over sodium sulfate, and chromatographed over silica gel using dichloromethane-methanol. The eluate was evaporated in vacuo and the residue was washed with diethyl ether to afford 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol (7.33 g) as a dark yellow powder (diastereomers mixture).

reactant | sodium borohydride | 92 ml, 18.29 g | [BH4-].[Na+]
reactant | 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 25.01 g | C(C1=CC=CC=C1)NC1CC(C2=C(CC1)C=CC(=C2)[N+](=O)[O-])=O | C18H18N2O3
product | 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 7.33 g | C(C1=CC=CC=C1)NC1CC(C2=C(CC1)C=CC(=C2)[N+](=O)[O-])O | C18H20N2O3
